US06887875B2
PPh3 (160 mg) is added to a solution of Pd2 dba3 (69 mg) in DME (15 ml) at room temperature, followed by the addition of 2,5-dichloro-3,6-diethyl-pyrazine (615 mg, 3 mmol), 2,4-dimethoxypghenylboronic acid (573 mg, 3.1 mmol) and Na2CO3 (1M, 6 ml). The resulting mixture is heated to 70° C. for 5 hours, and then cooled to room temperature. The reaction mixture is diluted with 50% EtOAc in hexane, washed with water and brine, dried, filtered and evaporated. The crude is purified by chromatography (eluted with 6% EtOAc in hexane) to give 2-chloro-5-(2,4-dimethoxy-phenyl)-3,6-diethyl-pyrazine as a light yellow oil. MS: 307.3, 309.3 (M+1). 1H NMR (CDCl3): δ 1.16 (t, 3H), 1.32 (t, 3H), 2.61 (q, 2H), 2.98 (q, 2H), 3.78 (s, 3H), 3.85 (s, 3H), 6.54 (d, 1H), 6.60 (dd, 1H), 7.20 (d, 1H).

reactant | PPh3 | 160 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2,5-dichloro-3,6-diethyl-pyrazine | 3 mmol, 615 mg | ClC1=NC(=C(N=C1CC)Cl)CC | C8H10Cl2N2
reactant | Na2CO3 | 1M, 6 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DME | 15 ml | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexane | CCCCCC | C6H14
catalyst | Pd2 dba3 | 69 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-chloro-5-(2,4-dimethoxy-phenyl)-3,6-diethyl-pyrazine | ClC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)OC)OC)CC | C16H19ClN2O2
